US08212065B2
In a 10 ml Schlenk tube, 5.0 mg of dry zinc chloride was dissolved in 3.0 ml of absolute tetrahydrofuran and cooled to 0° C. under argon. Thereafter, 222 mg of (S)-2-trifluoromethanesulfonyloxypropionic acid (ee 99%) and 1.05 ml of n-butylmagnesium chloride (2.00 M solution in THF) were added in succession and the reaction was stirred for 3 h at 0° C. Thereafter, the reaction mixture was diluted with petroleum ether, saturated sodium carbonate solution was added and the organic phase was separated off. The aqueous phase was acidified with an aqueous 2 M HCl solution, saturated with NaCl and extracted 3 times with 10 ml of diethyl ether. The combined organic phases were dried over MgSO4 and concentrated in vacuo. Pure (S)-2-methylhexanoic acid (ee 99%) was obtained in 92% yield.

reactant | (S)-2-trifluoromethanesulfonyloxypropionic acid | 222 mg | FC(S(=O)(=O)O[C@H](C(=O)O)C)(F)F | C4H5F3O5S
reactant | n-butylmagnesium chloride | 2.00 M, 1.05 ml | C(CCC)[Mg]Cl
reactant | tetrahydrofuran | 3.0 ml | O1CCCC1 | C4H8O
solvent | zinc chloride | 5.0 mg | [Cl-].[Zn+2].[Cl-]
solvent | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | (S)-2-methylhexanoic acid | 92% yield | C[C@H](C(=O)O)CCCC | C7H14O2
